US07045337B2
An L-3-(2-naphthyl)-alanine mutant of mouse dihydrofolate reductase (DHFR) was generated and characterized to confirm the ability of the mtRNACUATyr/SS 12-TyrRS pair to site-specifically incorporate L-3-(2-naphthyl)-alanine in response to an amber stop codon. The Tyr163 codon of the mouse DHFR gene was mutated to TAG, and a His6 tag was added to the COOH-terminus of DHFR to facilitate protein purification using Ni2+ affinity chromatography. As a positive control, wild-type M. jannaschii TyrRS was coexpressed with the mtRNACUATyr resulting in efficient suppression of the TAG codon with tyrosine (FIG. 4). When SS12-TyrRS was coexpressed with the mu tRNACUATyr in the presence of 1 mM L-3-(2-naphthyl)-alanine, full-length mouse DHFR was also generated (with yield of 2.2 mg/L in liquid GMML minimal medium). In the absence of either L-3-(2-naphthyl)-alanine, mtRNACUATyr, or SS12-TyrRS, no full length DHFR was produced. A penta-His antibody was used to detect the His6 tag at the COOH-terminus of DHFR in a Western blot. No DHFR could be detected in the absence of each of the above three components.

reactant | L-3-(2-naphthyl)-alanine | C1=CC=C2C=C(C=CC2=C1)C[C@@H](C(=O)O)N | C13H13NO2
reactant | dihydrofolate | C(CC[C@@H](C(=O)O)NC(=O)C1=CC=C(NCC=2CNC=3N=C(N)NC(=O)C3N2)C=C1)(=O)[O-]
product | tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
